US08242145B2
Step 5: {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
Hydrolysis of {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester with lithium hydroxide in MeOH and H2O provided the desired product.

reactant | {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C20H20BrNO5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(OCC1)=O | C18H16BrNO5
